US08871756B2
tert-Butyl (6-benzyl-2-oxa-6-azaspiro[3.4]oct-8-yl)carbamate
To a mixture of 6-benzyl-2-oxa-6-azaspiro[3.4]oct-8-ylamine (prepared above), sodium carbonate (1.46 g, 13.74 mmol), dichloromethane (20 mL) and water (20 mL) was added di-tert-butyl dicarbonate (1.8 g, 8.24 mmol) at room temperature. The mixture was stirred at room temperature overnight. The separated organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel to give 1.5 g of product as colorless oil, which was used for next step without further purification.

reactant | 6-benzyl-2-oxa-6-azaspiro[3.4]oct-8-ylamine | C(C1=CC=CC=C1)N1CC2(COC2)C(C1)N | C13H18N2O
reactant | sodium carbonate | 13.74 mmol, 1.46 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | di-tert-butyl dicarbonate | 8.24 mmol, 1.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 20 mL | O | H2O
product | tert-Butyl (6-benzyl-2-oxa-6-azaspiro[3.4]oct-8-yl)carbamate | 1.5 g | C(C1=CC=CC=C1)N1CC2(COC2)C(C1)NC(OC(C)(C)C)=O | C18H26N2O3
